US07713973B2
N-(4-(5-(5-Methyl-1H-pyrazol-3-ylamino)imidazo[1,2-a]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide
A mixture of (7-Chloro-imidazo[1,2-a]pyrimidin-5-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (73 mg, 0.29 mmol), N-(4-mercaptophenyl)cyclopropanecarboxamide (170 mg, 0.88 mmol), potassium carbonate (81 mg, 0.58 mmol) in DMF (1 ml) was heated with microwave at 190° C. for 30 minutes. The reaction mixture was then purified by HPLC to give the title compound Example 10 as an off-white solid (110 mg). 1H NMR (400 MHz, DMSO) δ 10.54 (s, 1H) 8.26 (d, J=2.8 Hz, 1H) 7.97 (d, J=2.4 Hz, 1H) 7.79 (d, J=8.8 Hz, 2H) 7.57 (d, J=8.8 Hz, 2H) 6.89 (s, 1H) 5.82 (s, 1H) 2.20 (s, 3H) 1.81-1.85 (m, 1H) 0.84-0.86 (m, 4H). [M+H] calc'd for C20H19N7OS, 406; found, 406.

reactant | (7-Chloro-imidazo[1,2-a]pyrimidin-5-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 0.29 mmol, 73 mg | ClC1=NC=2N(C(=C1)NC1=NNC(=C1)C)C=CN2 | C10H9ClN6
reactant | N-(4-mercaptophenyl)cyclopropanecarboxamide | 0.88 mmol, 170 mg | SC1=CC=C(C=C1)NC(=O)C1CC1 | C10H11NOS
reactant | potassium carbonate | 0.58 mmol, 81 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(4-(5-(5-Methyl-1H-pyrazol-3-ylamino)imidazo[1,2-a]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide | CC1=CC(=NN1)NC1=CC(=NC=2N1C=CN2)SC2=CC=C(C=C2)NC(=O)C2CC2 | C20H19N7OS
